US07273865B2
To a stirred suspension of 150 mg (0.56 mmol) 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine in 3 ml 1,2-dichloroethane and 3 ml THF at room temperature were added 0.29 ml (1.69 mmol) N-ethyldiisopropylamine and 117 mg (0.62 mmol) 4-(chloromethyl)benzoyl chloride and stirring continued at 80° C. for 2 h. The reaction mixture was then cooled to room temperature and concentrated in vacuo. Flash chromatography (ethyl acetate/heptane) afforded 157 mg (67%) 4-chloromethyl-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-benzamide as a yellow solid. ES-MS m/e (%):421 (M{37Cl}+H+, 35), 419 (M{35Cl}+H+, 100).

reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | 0.56 mmol, 150 mg | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
reactant | N-ethyldiisopropylamine | 1.69 mmol, 0.29 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-(chloromethyl)benzoyl chloride | 0.62 mmol, 117 mg | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-chloromethyl-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-benzamide | 157 mg, 67% | ClCC1=CC=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=C1 | C19H19ClN4O3S
